US06559172B1
Preparation of (4R*,5S*)-5-(3-Thienyl)-4-toluenesulfonyl-4,5-dihydro-1,3-oxazole
In a manner analogous to Preparation 1, 3-thiophene carboxaldehyde (0.35 mL, 3.99 mmol), tosylmethylisocyanide (0.75 g, 3.84 mmol) and NaCN (0.02 g, 0.40 mmol) gave the desired compound as a tan solid. MS(ES+) m/z 614.8 (2M+H+).

reactant | 3-thiophene carboxaldehyde | 3.99 mmol, 0.35 mL | S1C=C(C=C1)C=O | C5H4OS
reactant | tosylmethylisocyanide | 3.84 mmol, 0.75 g | S(=O)(=O)(C1=CC=C(C)C=C1)C[N+]#[C-] | C9H9NO2S
reactant | NaCN | 0.40 mmol, 0.02 g | [C-]#N.[Na+]
product | (4R*,5S*)-5-(3-Thienyl)-4-toluenesulfonyl-4,5-dihydro-1,3-oxazole | S1C=C(C=C1)[C@H]1[C@H](N=CO1)S(=O)(=O)C=1C(=CC=CC1)C | C14H13NO3S2
